US05399564
4-Azido-8-fluoroquinoline
A mixture of 2.08 g (0.0114 mol) of 4-chloro-8-fluoroquinoline, 1.12 g (0.0172 mol) of sodium azide, and 4.10 g ((0.0127 mol) of tetrabutyl ammonium bromide in 70 mL of dichloromethane and 25 mL of water was refluxed overnight. The layers were then separated and the organic layer was washed once with water, passed through phase separating paper, and concentrated to an oil, which was triturated with ether. The solid was filtered and the filtrate was concentrated to give 2.0 g of the title product.

reactant | 4-chloro-8-fluoroquinoline | 0.0114 mol, 2.08 g | ClC1=CC=NC2=C(C=CC=C12)F | C9H5ClFN
reactant | sodium azide | 0.0172 mol, 1.12 g | [N-]=[N+]=[N-].[Na+]
catalyst | tetrabutyl ammonium bromide | 0.0127 mol | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | 4-Azido-8-fluoroquinoline | 2.0 g | N(=[N+]=[N-])C1=CC=NC2=C(C=CC=C12)F | C9H5FN4
